US09034891B2
Synthesis of 1-(2,8-Dimethyl-1-thia-3,8-diazaspiro[4.5]dec-3-yl)-3-(1-methyl-indol-3-yl)propan-1-one (AF732)
To a solution of dicyclohexylcarbodiimide (DCC) (1.3 g, 6.3 mmol) in dichloromethane (50 ml) at room temperature was added 3-(1-methyl-indole-3-yl)propanoic acid (1.18 g, 5.8 mmol) and a solution of 2,8-dimethyl-1-thia-3,8-diaza-spiro[4.5]decane (1.2 g, 6.4 mmol) in dichloromethane (50 ml). The resulting solution was stirred at room temperature for 48 h. During the reaction a white solid precipitated. After filtration, the solvent was evaporated and the crude product was purified by flash chromatography (silica, CH2Cl2/EtOH/NH4OH 100/10/1) to give the title compound (0.7 g) as a colorless oil. 1H NMR (CDCl3, 300 MHz) δ 7.60 (d, J=7.82 Hz, 1H, CHC arom), 7.35-7.2 (m, 2H, 2CHC arom), 7.23 (dt, J=1.06, 7.45 Hz, 1H, CHCH arom), 6.90 (s, 1H, CHNH arom), 5.54, 5.07 (2q, J=6.16 and J=6.25 Hz, 1H, CHCH3), 4.63, 3.68 (2d, J=12.0 and J=11.5 Hz, 1H, CHHNCO), 3.75, 3.74 (2s, 3H, NCH3), 3.32 (d, J=11.5 Hz, 0.6H, CHHNCO), 3.17-3.05 (m, 2.4H), 2.8-2.4 (m), 2.68 [t, J=7.6 Hz, C(O)CH2], 2.28, 2.26 (2s, 3H, NCH3), 2.3-2.2 (m), 2.1-2.0 (m), 2.0-1.8 (m), 1.7-1.4 (m), 1.48, 1.43 (2d, J=6.18 and J=6.26 Hz, 3H, CH3—CH) ppm; 13C NMR (CDCl3, 300 MHz) δ 170.6 (C), 137.1 (C), 126.8 (C), 126.7 (CH), 121.8 (CH), 119.0 (CH), 118.9 (CH), 113.7 (C), 109.4 (CH), 59.0 (C), 57.5, 57.2 (CH), 54.6, 54.2 (CH2), 53.2, 52.9 (CH2), 46.3, 46.2 (CH3), 38.1, 37.4 (CH2), 36.9, 36.6 (CH2), 36.4, 34.7 (CH2), 32.7 (CH3), 25.5, 23.5 (CH3), 21.0, 20.9 (CH2) ppm.

reactant | dicyclohexylcarbodiimide | 6.3 mmol, 1.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-(1-methyl-indole-3-yl)propanoic acid | 5.8 mmol, 1.18 g | CN1C=C(C2=CC=CC=C12)CCC(=O)O | C12H13NO2
reactant | 2,8-dimethyl-1-thia-3,8-diaza-spiro[4.5]decane | 6.4 mmol, 1.2 g | CC1SC2(CN1)CCN(CC2)C | C9H18N2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(2,8-Dimethyl-1-thia-3,8-diazaspiro[4.5]dec-3-yl)-3-(1-methyl-indol-3-yl)propan-1-one | 0.7 g | CC1SC2(CN1C(CCC1=CN(C3=CC=CC=C13)C)=O)CCN(CC2)C | C21H29N3OS
